US07943669B2
Step B: {2-Chloro-4-[3-(4-chloro-phenylethynyl)-5-(3-morpholin-4-yl-propoxy)phenylsulfanyl]-phenoxy}-acetic Acid
{2-Chloro-4-[3-(4-chloro-phenylethynyl)-5-(3-morpholin-4-yl-propoxy)-phenylsulfanyl]-phenoxy}-acetic acid ethyl ester (200 mg; 0.33 mmol) was dissolved in ethanol (10 mL), and aqueous 1N sodium hydroxide (3 mL) was added. The reaction mixture was stirred for 16 h, acidified with 1N aqueous hydrochloric acid, and extracted with ethyl acetate. The organic phase was dried, evaporated to dryness, and purified by prep. HPLC (method A). Yield: 46 mg. HPLC-MS: m/z: 572.3 (M+); Rt: 2.03 min.

reactant | {2-Chloro-4-[3-(4-chloro-phenylethynyl)-5-(3-morpholin-4-yl-propoxy)-phenylsulfanyl]-phenoxy}-acetic acid ethyl ester | 0.33 mmol, 200 mg | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)OCCCN1CCOCC1)C#CC1=CC=C(C=C1)Cl)Cl)=O | C31H31Cl2NO5S
reactant | sodium hydroxide | 1N, 3 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | {2-Chloro-4-[3-(4-chloro-phenylethynyl)-5-(3-morpholin-4-yl-propoxy)phenylsulfanyl]-phenoxy}-acetic Acid | ClC1=C(OCC(=O)O)C=CC(=C1)SC1=CC(=CC(=C1)OCCCN1CCOCC1)C#CC1=CC=C(C=C1)Cl | C29H27Cl2NO5S
